US04273779
The starting material is prepared as follows: the mixture of 30.44 g of 5-aminopyridine-2-carboxylic acid methyl ester, 30.9 g of m-chlorobenzaldehyde, and 400 ml of benzene is refluxed for 3 days on a water-separating trap. The initial suspension eventually becomes a pale yellow solution, which is evaporated. The residual yellow solid is recrystallized from benzene-ethyl acetate-diethyl ether, to yield the 5-(m-chlorobenzylideneamino)-pyridine-2-carboxylic acid methyl ester melting at 139°-142°.

reactant | 5-aminopyridine-2-carboxylic acid methyl ester | 30.44 g | COC(=O)C1=NC=C(C=C1)N | C7H8N2O2
reactant | m-chlorobenzaldehyde | 30.9 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 5-(m-chlorobenzylideneamino)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)N=CC1=CC(=CC=C1)Cl | C14H11ClN2O2
